US08076516B2
To a solution of 3-(2-(tert-butoxycarbonylamino)ethoxy)benzoic acid (0.73 g, 2.98 mmol), cyclohexylamine (0.34 ml, 2.98 mmol), EDCI (0.7 g, 3.58 mmol) and HOBT (0.49 g, 3.58 mmol) in DMF was added DIPEA (1.0 ml, 5.57 mmol). The resulting mixture was stirred at room temperature for 18 h, concentrated, and partitioned between ethyl acetate and water. The organic layer was dried over Na2SO4 and concentrated under reduced pressure. Purification by flash chromatography (30 to 65% EtOAc-hexanes gradient) gave tert-butyl 2-(3-(cyclohexylcarbamoyl)phenoxy)ethylcarbamate as an orange oil. Yield (0.20 g, 20%): 1H NMR (400 MHz, CD3OD) δ 7.31-7.38 (m, 3H), 7.06-7.09 (m, 1H), 4.04 (t, J=5.6 Hz, 2H), 3.78-3.87 (m, 1H), 3.41-3.45 (m, 2H), 1.90-1.98 (m, 2H), 1.78-1.84 (m, 2H), 1.63-1.71 (m, 1H), 1.43 (s, 9H), 1.18-1.38 (m, 5H).

reactant | 3-(2-(tert-butoxycarbonylamino)ethoxy)benzoic acid | 2.98 mmol, 0.73 g | C(C)(C)(C)OC(=O)NCCOC=1C=C(C(=O)O)C=CC1 | C14H19NO5
reactant | cyclohexylamine | 2.98 mmol, 0.34 ml | C1(CCCCC1)N | C6H13N
reactant | EDCI | 3.58 mmol, 0.7 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 3.58 mmol, 0.49 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 5.57 mmol, 1.0 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
product | tert-butyl 2-(3-(cyclohexylcarbamoyl)phenoxy)ethylcarbamate | C1(CCCCC1)NC(=O)C=1C=C(OCCNC(OC(C)(C)C)=O)C=CC1 | C20H30N2O4
